US06441017B1
Step C: 1-Amino-7-(tert-butyldimethylsilyloxy)naphthalene Hydrochloride
A solution of 1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene, as described above in Step B, (5.00 g, 13.4 mmol) in EtOAc (240 mL) and Et2O (60 mL) at ambient temperature was saturated with HCl (g). After 1 hour, the mixture was concentrated in vacuo to yield the desired product as a pale solid.

reactant | 1-(tert-butoxycarbonylamino)-7-(tert-butyldimethylsilyloxy)naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | C21H31NO3Si
reactant | Et2O | 60 mL | CCOCC | C4H10O
reactant | HCl | Cl | ClH
solvent | EtOAc | 240 mL | CCOC(=O)C | C4H8O2
product | 1-Amino-7-(tert-butyldimethylsilyloxy)naphthalene Hydrochloride | Cl.NC1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C | InChI=1S/C16H23NOSi.ClH/c1-16(2,3)19(4,5)18-13-10-9-12-7-6-8-15(17)14(12)11-13;/h6-11H,17H2,1-5H3;1H
